US05206257
A mixture of 2,3,5,6-tetrachloro-4-trifluoromethylthiotoluene (13.46 g, 0.041 mol) and N-bromosuccinimide (7.26 g, 0.041 mol) in carbon tetrachloride (34 ml) was stirred and heated at reflux for 21 hours. After cooling the mixture was filtered and the filtrate washed with aqueous sodium hydroxide solution (5%, 2×100 ml), water (100 ml), dried over anhydrous magnesium sulphate and evaporated to dryness. Recrystallization of the residue gave 2,3,5,6-tetrachloro-4-trifluoromethylthiobenzyl bromide (8.17 g) m.p. 117°-118.5° C. as a white crystalline solid. By proceeding in a similar manner but by replacing 2,3,5,6-tetrachloro-4-trifluoromethylthiotoluene with the following starting material there was prepared: 2-bromo-4-trifluoromethylbenzyl bromide as a mobile yellow oil from 2-bromo-4-trifluoromethyltoluene.

reactant | 2,3,5,6-tetrachloro-4-trifluoromethylthiotoluene | 0.041 mol, 13.46 g | ClC1=C(C(=C(C(=C1Cl)SC(F)(F)F)Cl)Cl)C | C8H3Cl4F3S
reactant | N-bromosuccinimide | 0.041 mol, 7.26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 34 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,3,5,6-tetrachloro-4-trifluoromethylthiobenzyl bromide | 8.17 g | ClC1=C(CBr)C(=C(C(=C1Cl)SC(F)(F)F)Cl)Cl | C8H2BrCl4F3S
